US06201124B1
A mixture of 4-(4-chloro-1-oxobutyl)-α,α-dimethyl-α-(4,4-dimethyloxazolin-2-yl) toluene, prepared according to Example 3, (47.8 g, 0.15 mole), 150 mL concentrated hydrochloric acid, and 150 mL 1,4-dioxane is brought to reflux for 18 hours. The mixture is extracted three times with ethyl acetate. The organics are washed with saturated NaCl solution, dried over MgSO4, and concentrated. Crude product is purified by column chromatography using silica gel, and eluting with hexane/ethyl acetate/acetic acid. Cleaner fractions are combined and recrystallized from methylene chloride/hexanes to afford 4-(4-chloro-1-oxobutyl)-α, α-dimethylphenylacetic acid.

reactant | 4-(4-chloro-1-oxobutyl)-α,α-dimethyl-α-(4,4-dimethyloxazolin-2-yl) toluene | ClCCCC(=O)C1=CC=C(C=C1)C(C=1OCC(N1)(C)C)(C)C | C18H24ClNO2
reactant | hydrochloric acid | 0.15 mole, 150 mL, 47.8 g | Cl | ClH
reactant | 1,4-dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | 4-(4-chloro-1-oxobutyl)-α, α-dimethylphenylacetic acid | ClCCCC(=O)C1=CC=C(C=C1)C(C(=O)O)(C)C | C14H17ClO3
